US07498440B2
Preparation of 4-[hydroxy(di-3-thienyl)methyl]-1-[2-(phenyloxy)ethyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 4, 1-azabicyclo[2.2.2]oct-4-yl(di-3-thienyl)methanol (0.0787 g, 0.258 mmol) and 2-bromoethyl phenyl ether (0.0839 g, 0.417 mmol) in 2 MeOH/3 CHCl3/2 CH3CN (5.0 mL) were reacted to give the desired product (0.0709 g, 54.5%). EI-MS m/z 426(M+) Rt (1.85 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(di-3-thienyl)methanol | 0.258 mmol, 0.0787 g | N12CCC(CC1)(CC2)C(O)(C2=CSC=C2)C2=CSC=C2 | C16H19NOS2
reactant | 2-bromoethyl phenyl ether | 0.417 mmol, 0.0839 g | C1(=CC=CC=C1)OCCBr | C8H9BrO
solvent | MeOH | 5.0 mL | CO | CH4O
product | 4-[hydroxy(di-3-thienyl)methyl]-1-[2-(phenyloxy)ethyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0709 g, 54.5% | [Br-].OC(C12CC[N+](CC1)(CC2)CCOC2=CC=CC=C2)(C2=CSC=C2)C2=CSC=C2 | InChI=1S/C24H28NO2S2.BrH/c26-24(20-6-16-28-18-20,21-7-17-29-19-21)23-8-11-25(12-9-23,13-10-23)14-15-27-22-4-2-1-3-5-22;/h1-7,16-19,26H,8-15H2;1H/q+1;/p-1
